US04921862
A twofold stoichiometric excess of a 3% solution of hydrogen chloride in methanol is added to a solution of 1.0 g of 6-[3-(imidazol-1-yl)propyl]-3,4-dihydrocarbostyril in 50 ml of methanol at 25° C. Diethyl ether is then added to the stirred solution until precipitation is complete. The precipitate is filtered off, washed with ether and recrystallized from a mixture of methanol and ethyl acetate to give 6-[3-(imidazol-1-yl)propyl]-3,4-dihydrocarbostyril hydrochloride.

reactant | hydrogen chloride | Cl | ClH
reactant | 6-[3-(imidazol-1-yl)propyl]-3,4-dihydrocarbostyril | 1.0 g | N1(C=NC=C1)CCCC=1C=C2CCC(NC2=CC1)=O | C15H17N3O
reactant | Diethyl ether | C(C)OCC | C4H10O
solvent | methanol | CO | CH4O
solvent | methanol | 50 ml | CO | CH4O
product | 6-[3-(imidazol-1-yl)propyl]-3,4-dihydrocarbostyril hydrochloride | Cl.N1(C=NC=C1)CCCC=1C=C2CCC(NC2=CC1)=O | InChI=1S/C15H17N3O.ClH/c19-15-6-4-13-10-12(3-5-14(13)17-15)2-1-8-18-9-7-16-11-18;/h3,5,7,9-11H,1-2,4,6,8H2,(H,17,19);1H
